US05866684
2 g (16.53 mmol) of L-cysteine were dissolved in 40 ml of water/ethanol (1:1) together with 1.33 g (33.25 mmol) of sodium hydroxide pellets. 3.04g(16.53mmol) of butyl iodide were added and the mixture was stirred for 2 hours. The resulting S-alkylated product was treated with 3.96 g (18.14 mmol) of di-tert-butyl dicarbonate and the mixture was stirred for 1 hour.A further 3.61 g (16.53 mmol) of di-tert-butyl dicarbonate were added and the mixture was stirred overnight. The solution was evaporated to dryness under a vacuum and the residue was partitioned between diethyl ether and saturated aqueous sodium hydrogen carbonate solution. The aqueous phase was acidified by partitioning in 2M hydrochloric acid and ethyl acetate, the separated organic phase was dried over magnesium sulphate and the solvent was removed by evaporation to give 4.3 g of N-(tert-butoxycarbonyl)-S-butyl-L-cysteine as a brown oil; 1H NMR (250 MHz, CDCl3) δ: 0.9 (t,3 H), 1.3-1.6 (m,4 H), 1.4 (s,9 H), 2.55 (t,2 H), 3.0 (br.d,2 H), 4.5 (m,1 H), 5.3 (br.d, 1 H).

reactant | L-cysteine | 16.53 mmol, 2 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | sodium hydroxide | 33.25 mmol, 1.33 g | [OH-].[Na+]
reactant | butyl iodide | 16.53mmol, 3.04g | C(CCC)I | C4H9I
reactant | di-tert-butyl dicarbonate | 18.14 mmol, 3.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 16.53 mmol, 3.61 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water ethanol | 40 ml | O.C(C)O
product | N-(tert-butoxycarbonyl)-S-butyl-L-cysteine | 4.3 g | C(C)(C)(C)OC(=O)N[C@@H](CSCCCC)C(=O)O | C12H23NO4S
